US09422312B2
Step 1: 4-Bromo-N-[methyl(oxo)pyrrolidin-1-yl-λ6-sulfanylidene]aniline
The title compound is prepared from N-(4-bromophenyl)methanesulfinamide and pyrrolidine following a procedure analogous to that described for Intermediate 3 (Step 2). LC (method 1): tR=0.99 min; Mass spectrum (ESI+): m/z=303, 305 [M+H]+.

reactant | N-(4-bromophenyl)methanesulfinamide | BrC1=CC=C(C=C1)NS(=O)C | C7H8BrNOS
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 4-Bromo-N-[methyl(oxo)pyrrolidin-1-yl-λ6-sulfanylidene]aniline | BrC1=CC=C(N=S(N2CCCC2)(=O)C)C=C1 | C11H15BrN2OS
